US06294538B1
Step B. (R)-2-Methoxy-propionimidic acid ethyl ester hydrochloride
Hydrogen chloride gas was passed into an icecold solution of (R)-2-methoxy-propionitrile (prepared according to the method of Example 1, Step A, 9.91 g, 116.5 mmol) in anhydrous ethanol (100 mL) until the solution was saturated with the gas. The reaction was stored in a refrigerator over night. The excess ethanol was removed under vacuum to obtain the title compound of Example 1, Step B as a deliquescent solid (19.5 g, 100% yield); [α]D+46.4 (c=1, methanol); 1H NMR (CDCl3, 300 MHz) δ1.4 (d, 3H), 3.4 (s, 1H), 3.7 (q, 2H), 4.8 (q, 1H), 6.2 (b, 1H).

reactant | Hydrogen chloride | Cl | ClH
reactant | (R)-2-methoxy-propionitrile | CO[C@@H](C#N)C | C4H7NO
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | (R)-2-Methoxy-propionimidic acid ethyl ester hydrochloride | 19.5 g, 100% yield | Cl.C(C)OC([C@@H](C)OC)=N | InChI=1S/C6H13NO2.ClH/c1-4-9-6(7)5(2)8-3;/h5,7H,4H2,1-3H3;1H/t5-;/m1./s1
